US04504660
2-Fluoro-6-anilinobenzonitrile
A mixture of 2.8 g (20 mmol) of 2,6-difluorobenzonitrile in 20 ml of aniline is refluxed for 6 hrs. The mixture is poured into diluted HCl and the acid is extracted with methylene chloride. Evaporation gives the crude product which is chromatographed on silica gel (50% hexane--CH2Cl2) to give the title compound, m.p. 97°-99° C.

reactant | 2,6-difluorobenzonitrile | 20 mmol, 2.8 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | HCl | Cl | ClH
reactant | aniline | 20 ml | NC1=CC=CC=C1 | C6H7N
product | 2-Fluoro-6-anilinobenzonitrile | FC1=C(C#N)C(=CC=C1)NC1=CC=CC=C1 | C13H9FN2
